US05096948
(4) 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionic acid amide
N,N'-bis(3,5-di-t-butyl-4-hydroxyphenylpropionyl)-hexamethylenediamine, N,N'-bis(3,5-di-t-butyl-4-hydroxyphenylpropionyl)trimethylenediamine, and N,N'-bis(3,5-di-t-butyl-4-hydroxyphenylpropionyl)-hydrazine.

reactant | N,N'-bis(3,5-di-t-butyl-4-hydroxyphenylpropionyl)-hexamethylenediamine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCCCCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C40H64N2O4
reactant | N,N'-bis(3,5-di-t-butyl-4-hydroxyphenylpropionyl)trimethylenediamine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C37H58N2O4
reactant | N,N'-bis(3,5-di-t-butyl-4-hydroxyphenylpropionyl)-hydrazine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C34H52N2O4
product | 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionic acid amide | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)N | C17H27NO2
